US09085583B2
To a solution of 1-(3-methoxybutan-2-yl)-2-methyl-1H-pyrrolo[2,3-b]pyridine-3-carboxylic acid (2.4 g, 9.15 mmol) in DMF (30 mL) was added TEA (4.2 g, 41.50 mmol), 3-(aminomethyl)-4-methoxy-6-methylpyridin-2(1H)-one hydrochloride (2.1 g, 12.81 mmol) After stirred for 10 minutes at 27° C., the mixture was cooled and added HATU (5.56 g, 14.64 mmol). The mixture was stirred at 27° C. for 72 hours and 30% of S.M. remained. Then the mixture was heated at 80° C. for 5 hours. The solution was diluted with brine (100 mL) and extracted with CH2Cl2 (100 mL*3). The extractions were combined and dried over Na2SO4. The solvent was evaporated under vacuum and the residue was purified by flash column (Eluent: dichloromethane:methanol=95:5) to give N-((4-methoxy-6-methyl-2-oxo-1,2-dihydropyridin-3-yl)methyl)-1-(3-methoxybutan-2-yl)-2-methyl-1H-pyrrolo[2,3-b]pyridine-3-carboxamide. (3.6 g, yield 95%)

reactant | 1-(3-methoxybutan-2-yl)-2-methyl-1H-pyrrolo[2,3-b]pyridine-3-carboxylic acid | 9.15 mmol, 2.4 g | COC(C(C)N1C(=C(C=2C1=NC=CC2)C(=O)O)C)C | C14H18N2O3
reactant | 3-(aminomethyl)-4-methoxy-6-methylpyridin-2(1H)-one hydrochloride | 12.81 mmol, 2.1 g | Cl.NCC=1C(NC(=CC1OC)C)=O
reactant | HATU | 14.64 mmol, 5.56 g | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
solvent | DMF | 30 mL | CN(C)C=O | C3H7NO
solvent | brine | 100 mL | [Cl-].[Na+].O
product | N-((4-methoxy-6-methyl-2-oxo-1,2-dihydropyridin-3-yl)methyl)-1-(3-methoxybutan-2-yl)-2-methyl-1H-pyrrolo[2,3-b]pyridine-3-carboxamide | yield 95% | COC1=C(C(NC(=C1)C)=O)CNC(=O)C1=C(N(C2=NC=CC=C21)C(C)C(C)OC)C | C22H28N4O4
